US07981903B2
4-chloro-2-(methyloxy)-1-nitrobenzene (6.71 g, 29.7 mmol), (3S)-3-methylmorpholine (Synthetech Inc., 2.0 g, 19.8 mmol), cesium carbonate (13.0 g, 40 mmol), Pd2dba3 (1.83 g, 2.0 mmol), and XANTPHOS (1.73 g, 3.0 mmol) were added to degassed dioxane (200 mL) and heated to 100° C. under a water cooled reflux condenser for 12 hours. The dioxane was removed under reduced pressure and the solids were partitioned between methylene chloride (500 mL) and water (500 mL). The organic layer was dried over sodium sulfate, taken to a residue under reduced pressure, and purified by chromatography on SiO2to give 4-[(3S)-3-methyl-4-morpholinyl]-2-(methyloxy)aniline as a yellow solid (2.46 g, 8.45 mmol, 43% yield). 1H NMR (400 MHz, CDCl3) δ ppm 1.22 (dd, J=6.41, 4.58 Hz, 3 H), 3.22-3.29 (m, J=12.11, 8.03, 4.03, 4.03 Hz, 1 H), 3.31-3.37 (m, 1 H), 3.59-3.69 (m, 1 H), 3.78 (d, J=2.93 Hz, 2H), 3.92 (d, J=4.21 Hz, 4 H), 4.02 (s, 1 H), 6.25 (s, 1 H), 6.32-6.39 (m, 1 H), 7.98 (dd, J=9.34, 4.21 Hz, 1 H).

reactant | 4-chloro-2-(methyloxy)-1-nitrobenzene | 29.7 mmol, 6.71 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
reactant | (3S)-3-methylmorpholine | 19.8 mmol, 2.0 g | C[C@@H]1NCCOC1 | C5H11NO
reactant | cesium carbonate | 40 mmol, 13.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | XANTPHOS | 3.0 mmol, 1.73 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd2dba3 | 2.0 mmol, 1.83 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[(3S)-3-methyl-4-morpholinyl]-2-(methyloxy)aniline | 8.45 mmol, 2.46 g, 43% yield | C[C@@H]1N(CCOC1)C1=CC(=C(N)C=C1)OC | C12H18N2O2
